US07056916B2
(d) 8-{2-[2-(2-chloro-4-fluorophenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one
357 mg (1 mmol) of 6-benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one and 202 mg (1 mmol) of 2-(2-chloro-4-fluorophenyl)-1,1-dimethylethylamine are reacted with lithium borohydride analogously to the method for Example 10(d). To debenzylate the ethanolamine thus obtained, it is dissolved in 3 mL of dichloromethane and cooled to −78° C. At this temperature, 2 mL of a 1 molar solution of boron tribromide in dichloromethane is added and the mixture is slowly allowed to come up to ambient temperature. The reaction mixture is combined with 10 mL dichloromethane and 3 mL water and filtered through an EXTRELUT® column. The eluate is freed from solvent and the residue is purified by chromatography. White solid. Yield: 70 mg (13%, trifluoroethyl acetate); mass spectroscopy: [M+H]+=409/11.

reactant | 6-benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 357 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(C(O)OCC)=O | C19H19NO6
reactant | 2-(2-chloro-4-fluorophenyl)-1,1-dimethylethylamine | 1 mmol, 202 mg | ClC1=C(C=CC(=C1)F)CC(C)(C)N | C10H13ClFN
reactant | lithium borohydride | [BH4-].[Li+]
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 3 mL | O | H2O
product | 8-{2-[2-(2-chloro-4-fluorophenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one | ClC1=C(C=CC(=C1)F)CC(C)(C)NCC(O)C1=CC(=CC=2NC(COC21)=O)O | C20H22ClFN2O4
